* C:\Users\HP\Documents\LTspice\Draft2.asc
* Generated by LTspice 24.1.9 for Windows.
C1 NC_01 0 1µ
C2 NC_02 0 1p
C3 NC_03 0 1m
C4 NC_04 0 1µ
B1 in1 0 V=u(time-1m)
R1 out1 in1 1k
C5 out1 0 1µ m=5
R2 out2 in2 1k
C6 out2 0 1µ ic=1.5v
B2 in2 0 V=u(time-2m)
* m=5 表示5个电容并联\n按ctrl右键元件进行详细编辑 vis取消x进行显示
.tran 20m uic
.backanno
.end
