* C:\Users\HP\Documents\LTspice\Draft3.asc
* Generated by LTspice 24.1.9 for Windows.
B2 N001 0 V=u(time-1m)
L2 N001 0 1m ic=0A
L1 0 N002 10µ
L3 0 out1 40µ
L4 0 out2 90µ
V1 N002 0 SINE(0 1 1k) Rser=1m
.tran 5m uic
k1 l1 l3 l4 1
.backanno
.end
