* C:\Users\HP\Documents\LTspice\Draft1.asc
* Generated by LTspice 24.1.9 for Windows.
R1 NC_01 0 1
R2 NC_02 0 1
R3 NC_03 0 1
V1 out 0 1
R4 out 0 1 tc=.001 .0001
.options tnom=0
.dc temp -20 100 .01
* R=R0*(1+tc1*dt+tc2*dt^2+...)\ndt=temp-tnom\ndefault tnom=27
.backanno
.end
