* C:\Users\HP\Documents\LTspice\Draft5.asc
* Generated by LTspice 24.1.9 for Windows.
V1 NC_01 0 PWL(0 1 2 3 3 2 4 5)
V2 NC_02 0 PWL repeat for 3 (1n 1 2 3 3 2 4 5) endrepeat
V3 NC_03 0 PWL file=signal.txt
V4 NC_04 0 PWL repeat for 3 file=signal.txt endrepeat
.tran 30
.backanno
.end
