* C:\Users\HP\Documents\LTspice\Draft4.asc
* Generated by LTspice 24.1.9 for Windows.
V1 NC_01 0 SINE(0 1 100)
V2 NC_02 0 SINE(0 1 1k)
V3 NC_03 0 SFFM(0 1 1k 5 100)
* 信号
* 载波
* 调幅信号
* SFFM Single Frequency FM\n单频调幅信号
.tran 20m
.backanno
.end
