* C:\Users\HP\Documents\LTspice\Draft7.asc
* Generated by LTspice 24.1.9 for Windows.
E1 v2v 0 sig 0 5
V1 sig 0 SINE(0 1 1k)
G1 0 v2i sig 0 -.1
R1 v2i 0 1
H1 i2v 0 v1 -50
F1 i2i 0 v1 3
R2 i2i 0 1
R3 sig 0 1k
.tran 5m
.backanno
.end
