* C:\Users\HP\Documents\LTspice\Draft1.asc
* Generated by LTspice 24.1.9 for Windows.
V1 NC_01 0 PULSE(0 1 0 1n 1n 1m 2m)
V2 NC_02 0 PULSE(0 1 2m 1n 1n 1m 2m 3)
V3 NC_03 0 PULSE(0 1 0 .5m .5m 0 1m)
V4 NC_04 0 PULSE(0 1 0 1m 0 0 1m)
* 方波
* 有限方波
.tran 10m
* 三角波
* 锯齿波
.backanno
.end
